US05965563
N6 -(1-tetralyl) adenine
A suspension of N6 -(1-tetralyl) adenine hydrochloride salt (3.018 g, 10 mM) and potassium carbonate (2.764 g, 20 mM) in methanol (60 ml) is stirred at ambient temperature for 0.5 h. The mixture is filtered and the filtrate evaporated under vacuum. The residue is purified by column chromatography using a 93:7 mixture of dichloromethane/methanol as eluant to give pure title compound in 90% yield.

reactant | adenine hydrochloride salt | 10 mM, 3.018 g | Cl.N1=CN=C2N=CNC2=C1N
reactant | potassium carbonate | 20 mM, 2.764 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 60 ml | CO | CH4O
product | adenine | 90% yield | N1=CN=C2N=CNC2=C1N | C5H5N5
